US07713993B2
Synthesis of 5-chloro-2-p-tolylpentanoic acid
A solution of p-tolylacetic acid (1 g) in THF (30 mL) was stirred at −78° C. for 30 minutes. n-Butyl lithium (2.66 M solution in hexane, 5.01 mL) was added to the solution, and the reaction solution was stirred at −78° C. for three hours. Thereafter, the reaction solution was stirred at 0° C. for 30 minutes, 1-bromo-3-chloropropane (0.725 mL) was added to the reaction solution, and the reaction solution was stirred at room temperature for 24 hours. Thereafter, ethyl acetate and 1 N aqueous hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 1.53 g of the title compound. The property values corresponded to the reported values (CAS #2856-76-0).

reactant | p-tolylacetic acid | 1 g | C1(=CC=C(C=C1)CC(=O)O)C | C9H10O2
reactant | n-Butyl lithium | 2.66 M, 5.01 mL | C(CCC)[Li]
reactant | 1-bromo-3-chloropropane | 0.725 mL | BrCCCCl | C3H6BrCl
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-p-tolylpentanoic acid | 1.53 g | ClCCCC(C(=O)O)C1=CC=C(C=C1)C | C12H15ClO2
